### PR TITLE
Variation Trees

### PR DESCRIPTION
**Pull request by pmbittner**
This PR contains
- a formalization of Variation Trees,
- a proof for soundness of Variation Trees,
- a proof for completeness of Variation Trees,
- Formula ADTs (i.e., ADTs in which choices are annotated with formulas),
- propositional logic,
- forests of rose trees as variants,
- default atom definitions for strings and natural numbers as part of issue #76,
- some minor refactorings and extensions for these proofs, in particular in our `AuxProofs` module

### CODE REVIEW

**Comment by pmbittner** [comment]
The PR is now feature-complete but there is still potential for cleanups. The history is also a bit messy.

File: src/Vatras/Data/Prop.agda [hunk 1]
```diff
@@ -0,0 +1,34 @@
...
+open import Data.Bool as Bool using (Bool; if_then_else_)
+
+data Prop (F : Set) : Set where
+  true  : Prop F
+  false : Prop F
+  var   : F → Prop F
+  ¬_    : Prop F → Prop F
+  _∧_   : Prop F → Prop F → Prop F
+
+infix 24 var
```
Comment (ibbem) [inline src/Vatras/Data/Prop.agda:12]: What's your rational on this? Why not treat `var` as a normal function? I already tried removing this `infix 24 var` and nothing breaks.

File: src/Vatras/Data/Prop/Properties.agda [hunk 2]
```diff
@@ -0,0 +1,134 @@
+module Vatras.Data.Prop.Properties {F : Set} where
+
+open import Data.Bool as Bool using ()
+open import Data.Bool.Properties using (∧-comm; ∧-zeroˡ; ∧-zeroʳ)
+open import Data.Empty using (⊥)
+open import Data.Product as Product using (Σ; _×_; ∃-syntax; _,_)
+open import Data.Sum as Sum using (_⊎_) renaming (inj₁ to left; inj₂ to right)
```
Comment (ibbem) [inline src/Vatras/Data/Prop/Properties.agda:7]: I'm not a huge fan of these renames. When reading the code you always have to look at the imports or jump to the definition just to know what these names mean. What's the problem with the standard names `inj₁`, `inj₂`?

File: src/Vatras/Data/Prop/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,134 @@
...
+
+open import Relation.Nullary.Negation renaming (¬_ to never)
```
Comment (ibbem) [inline src/Vatras/Data/Prop/Properties.agda:9]: Here, the rename makes sense to avoid name clashes.
However, for me `never (Const p)` doesn't make a lost of sense. What about `negate (Const p)` or `Negation.¬ (Const p)`

File: src/Vatras/Data/Prop/Properties.agda [hunk 4]
```diff
@@ -0,0 +1,134 @@
...
+  → Satisfiable (p ∧ q)
+sat-∧ʳ p q taut-q (a , sat) = a , (
+  eval (p ∧ q) a            ≡⟨⟩
+  eval p a Bool.∧ eval q a  ≡⟨ cong (eval p a Bool.∧_) (taut-q a) ⟩
+  eval p a Bool.∧ Bool.true ≡⟨ cong (Bool._∧ Bool.true) sat ⟩
+  Bool.true                 ∎)
+
+fal-∧ : ∀ p q
+  → Falsifiable q
+  → Falsifiable (p ∧ q)
```
Comment (ibbem) [inline src/Vatras/Data/Prop/Properties.agda:102]: This begs for a left version, so we should name it `fal-∧ʳ`, right?

File: src/Vatras/Lang/VT.agda [hunk 5]
```diff
@@ -0,0 +1,69 @@
...
+vt-leaf : ∀ {A} → atoms A → UnrootedVT A
+vt-leaf a = a -< [] >-
+
+mutual
+  {-|
+  Corresponds to ⟦_⟧* from the dissertation of Paul Bittner.
+  To prove termination and to simplify proofs, this definition is an inlined variant of
+    configure-all c ts = concatMap (configure c) ts
+  -}
+  configure-all : ∀ {A} → Configuration → List (UnrootedVT A) → Forest A
```
Comment (ibbem) [inline src/Vatras/Lang/VT.agda:43]: To me, the arguments seem backwards. As far as I remember, we always put the configuration argument of a semantic last. Is there a reason you chose this order?

File: src/Vatras/Framework/Definitions.agda [hunk 6]
```diff
@@ -61,3 +61,22 @@ and hence expressions are parameterized in the type of this atomic data.
 -}
 𝔼 : Set₂
 𝔼 = 𝔸 → Set₁
+
+-- some default atoms
+module _ where
+  open import Data.String using (String; _≟_)
+
+  _String≟_ : DecidableEquality String
+  _String≟_ = _≟_
```
Comment (ibbem) [inline src/Vatras/Framework/Definitions.agda:70]: Are these reexports really necessary? I would just define `STRING` and leave out `_String≟_`. This would also make the anonymous modules redundant.

File: src/Vatras/Lang/ADT/Merge.agda [hunk 7]
```diff
@@ -0,0 +1,133 @@
...
+  Merges two ADTs.
+  The resulting ADT denotes all possible compositions of variants, such that configuring the resulting ADT
+  is equivalent to configuring both input ADTs and composing the resulting variants (see ⊕-spec below).
+  This operations inherits all properties of the variant composition (e.g., commutativity, associativity etc).
+  -}
+  _⊕_ : ∀ {A} → ADT A → ADT A → ADT A
+  leaf l          ⊕ leaf r          = leaf (l +ᵥ r)
+  leaf l          ⊕ (E ⟨ el , er ⟩) = E ⟨ leaf l ⊕ el , leaf l ⊕ er ⟩
+  (D ⟨ dl , dr ⟩) ⊕ leaf r          = D ⟨ dl ⊕ leaf r , dr ⊕ leaf r ⟩
+  (D ⟨ dl , dr ⟩) ⊕ (E ⟨ el , er ⟩) = D ⟨ E ⟨ dl ⊕ el , dl ⊕ er ⟩ , E ⟨ dr ⊕ el , dr ⊕ er ⟩ ⟩
```
Comment (ibbem) [inline src/Vatras/Lang/ADT/Merge.agda:30]: Does the indentation of this function look aligned to you in Emacs? With the fonts I use, `⟨` and `⟩` are half-space characters which makes the `=` seem unaligned.

File: src/Vatras/Translation/Lang/VariantList-to-VT.agda [hunk 8]
```diff
@@ -0,0 +1,190 @@
...
+open import Vatras.Framework.Variants using (Forest; Variant-is-VL; encode-idemp)
+open import Vatras.Framework.Annotation.IndexedDimension using (Indexed)
+open import Vatras.Framework.Compiler using (LanguageCompiler)
+open import Vatras.Framework.Proof.ForFree Forest using (completeness-by-expressiveness)
+open import Vatras.Framework.Properties.Completeness Forest using (Complete)
+open import Vatras.Framework.Relation.Expressiveness Forest using (_≽_)
+
+open import Vatras.Lang.VariantList Forest as VariantList using (VariantList; VariantListL)
+open import Vatras.Lang.VariantList.Properties Forest using (VariantList-is-Complete)
+open import Vatras.Lang.VT (Indexed F)
```
Comment (ibbem) [inline src/Vatras/Translation/Lang/VariantList-to-VT.agda:29]: I don't see a reason for using `Indexed F` instead of just `ℕ`. The commit b0ea3699df051c3f86900c6b03087c10eef96c0f shows what I mean.

File: src/Vatras/Translation/LanguageMap.lagda.md [hunk 9]
```diff
@@ -348,3 +359,21 @@ OC-is-sound {F} _==_ = soundness-by-expressiveness (2CC-is-sound _==_) (OC-to-2C
...
+Yet, variant lists and ADTs are generic in their type of variants and hence can also denote forests.
+```agda
+open import Vatras.Lang.VariantList.Properties
+  using ()
+  renaming (VariantList-is-Sound to VariantList-is-sound-on; VariantList-is-Complete to VariantList-is-complete-on)
+
+ADT-is-sound-on : ∀ {F : 𝔽} (V : 𝕍) (_==_ : DecidableEquality F) → Sound-on V (ADTL F V)
+ADT-is-sound-on {F} V _==_ = soundness-by-expressiveness-on V (VariantList-is-sound-on V) (ADT-to-VariantList.VariantList≽ADT F V _==_)
+
+VT-is-complete : ∀ (F : 𝔽) (f : F) → Complete-on Forest (VTL (Indexed F))
```
Comment (ibbem) [inline src/Vatras/Translation/LanguageMap.lagda.md:374]: Should we prove something like `Vatras.Translation.Lang.2CC.Rename` for variation trees such that this reduces to `Complete-on Forest (VTL F)`?

**Review by ibbem — COMMENTED** [review]
Overall very readable definitions and proofs. I like it.
Apart from some small questions I added a few commits that fix some small issues like, most notably,
- 1e1fab82d52625a306929c523b93511398ef6821 adding variation trees to Lang.All.Fixed
- 28350bb63ca194741d9320f17f81ea9bb7d4ed74 simplifying the ADT merge definition to help the termination checker
- 62ebfbf84fb1c685ccaebad20e54b1383270c3bd reusing some stdlib functions which are already upstream

Note that I'm not yet sure about the last commit b0ea3699df051c3f86900c6b03087c10eef96c0f as noted in one of the comments.

File: src/Vatras/Translation/Lang/VariantList-to-VT.agda [hunk 10]
```diff
@@ -41,7 +41,7 @@ Arguments:
 translate' : ∀ {A} → ℕ → Forest A → List (Forest A) → List (UnrootedVT A)
 translate' n x []       = encode-forest x
 translate' n x (y ∷ ys) =
-  if[ var (f , n) ]then[
+  if[ var n ]then[
```
Comment (pmbittner) [inline src/Vatras/Translation/Lang/VariantList-to-VT.agda:44]: lol

File: src/Vatras/Translation/Lang/VariantList-to-VT.agda [hunk 11]
```diff
@@ -84,15 +84,15 @@ fnoci-invariant : ∀ {ℓ} {A : Set ℓ} (x : A) (xs : List⁺ A) (n m i : ℕ)
   ≡ find-or-last (fnoci      n  (suc m) i c) (x ∷⁺ xs)
 fnoci-invariant x xs n m zero c z≤n = refl
 fnoci-invariant x xs n (suc m) (suc i) c (s≤s i≤m)
-  rewrite ∸-suc i≤m
+  rewrite +-∸-assoc 1 i≤m
```
Comment (pmbittner) [inline src/Vatras/Translation/Lang/VariantList-to-VT.agda:87]: Interesting. I just opened a PR for adding `∸-suc` to the standard library but it already seems to exist. It was not obvious to me to look for `+-∸` interactions.

File: src/Vatras/Lang/ADT/Merge.agda [hunk 12]
```diff
@@ -24,40 +23,19 @@ module Named (F : 𝔽) where
   This operations inherits all properties of the variant composition (e.g., commutativity, associativity etc).
   -}
   _⊕_ : ∀ {A} → ADT A → ADT A → ADT A
-  leaf l          ⊕ leaf r          = leaf (l +ᵥ r)
-  leaf l          ⊕ (E ⟨ el , er ⟩) = E ⟨ leaf l ⊕ el , leaf l ⊕ er ⟩
-  (D ⟨ dl , dr ⟩) ⊕ leaf r          = D ⟨ dl ⊕ leaf r , dr ⊕ leaf r ⟩
-  (D ⟨ dl , dr ⟩) ⊕ (E ⟨ el , er ⟩) = D ⟨ E ⟨ dl ⊕ el , dl ⊕ er ⟩ , E ⟨ dr ⊕ el , dr ⊕ er ⟩ ⟩
+  leaf l         ⊕ leaf r         = leaf (l +ᵥ r)
+  leaf l         ⊕ (E ⟨ el , er ⟩) = E ⟨ leaf l ⊕ el , leaf l ⊕ er ⟩
+  (D ⟨ dl , dr ⟩) ⊕ r              = D ⟨ dl ⊕ r , dr ⊕ r ⟩
```
Comment (pmbittner) [inline src/Vatras/Lang/ADT/Merge.agda:28]: nice

File: src/Vatras/Lang/VT/Encode.agda [hunk 13]
```diff
@@ -23,8 +23,7 @@ mutual
     a -< map encode-tree xs >-
   -}
   encode-tree : ∀ {A} → Rose ∞ A → UnrootedVT A
-  encode-tree (a -< [] >-)     = a -< [] >-
-  encode-tree (a -< x ∷ xs >-) = a -< encode-tree x ∷ encode-forest xs >-
+  encode-tree (a -< xs >-) = a -< encode-forest xs >-
```
Comment (pmbittner) [inline src/Vatras/Lang/VT/Encode.agda:26]: Ah, one inlining too much. :D

**Comment by pmbittner** [comment]
Thank you for the simplifications, greatly appreciated, and astonishing to see how many simplifications you were able to spot. :D I will go over your review later.

File: src/Vatras/Data/Prop.agda (hunk 1 above)
Comment (pmbittner) [reply src/Vatras/Data/Prop.agda:12]: I do not remember. Removed it.

File: src/Vatras/Data/Prop/Properties.agda (hunk 2 above)
Comment (pmbittner) [reply src/Vatras/Data/Prop/Properties.agda:7]: You are right, we should use the default names to increase readability. Personally, I just like the Haskell-Style names more than inj_... but we should stick to the standard. I probably intended to remove the renaming after finishing the file anyway but forgot.

File: src/Vatras/Translation/Lang/VariantList-to-VT.agda (hunk 8 above)
Comment (pmbittner) [reply src/Vatras/Translation/Lang/VariantList-to-VT.agda]: Great! Good observation.

File: src/Vatras/Translation/LanguageMap.lagda.md (hunk 9 above)
Comment (pmbittner) [reply src/Vatras/Translation/LanguageMap.lagda.md]: Yes that would be great. I guess here it is simpler because we just need an embedding of natural numbers into any set of feature names F? We do not have to do this as part of this PR though.

File: src/Vatras/Framework/Definitions.agda (hunk 6 above)
Comment (ibbem) [reply src/Vatras/Framework/Definitions.agda:70]: Well, I'm unsure about when these are actually necessary. Furthermore, with `import Data.String as String` you get the almost identical `String._≟_`.
However, this is really a nit pit only.

File: src/Vatras/Lang/ADT/Merge.agda (hunk 7 above)
Comment (ibbem) [reply src/Vatras/Lang/ADT/Merge.agda]: Right, didn't notice Github's redering 😅.

Indeed `Symbola`, the font I use as Unicode fallback isn't a strictly monospace font. I just copied your font setup, so now we should have consistent rendering.

File: src/Vatras/Translation/LanguageMap.lagda.md (hunk 9 above)
Comment (ibbem) [reply src/Vatras/Translation/LanguageMap.lagda.md]: I created issue #87 for this.

File: src/Vatras/Framework/Definitions.agda (hunk 6 above)
Comment (pmbittner) [reply src/Vatras/Framework/Definitions.agda:70]: Yeah, I guess we should remove them for now. We can later try to identify convenient notation when we actually need it.

Comment (pmbittner) [reply src/Vatras/Framework/Definitions.agda]: Maybe transforming our atom sets from the default sum type to a custom record would be senaible somewhen on the future, too.
